US06166028
3-Dimethylamino-5-trifluoromethyl-benzonitrile
To a solution of 3-dimethylamino-5-trifluoromethylbromobenzene (7.3 g) in N,N-dimethylformamide (20 mL) is added cuprous cyanide (2.7 g) and the reaction heated at reflux for 12 hours. The reaction is diluted with water (40 mL) and dichloromethane is added. The dichloromethane fraction is washed with concentrated ammonium hydroxide, then water. The solution is dried over anhydrous magnesium sulfate, filtered and concentrated to give a yellow solid which is recrystallized from hexanes to give a yellow solid, (4.7 g).

reactant | 3-dimethylamino-5-trifluoromethylbromobenzene | 7.3 g | CN(C=1C=C(C=C(C1)C(F)(F)F)Br)C | C9H9BrF3N
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Dimethylamino-5-trifluoromethyl-benzonitrile | CN(C=1C=C(C#N)C=C(C1)C(F)(F)F)C | C10H9F3N2
